US06521643B1
To a suspension of 2-bromo-4-ethoxypyridine (879 mg), 3-nitrophenylboronic acid (944 mg) and tetrakis(triphenylphosphine)-palladium (251 mg) in 1,2-dimethoxyethane (20 ml) was added 2M aqueous solution of sodium carbonate (5.66 ml). The mixture was stirred at 90° C. for 8 hours under a nitrogen atmosphere, then cooled to room temperature and diluted with ethyl acetate. The organic layer was separated, washed with water and brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 40 g, 25% ethyl acetate in n-hexane) to give 3-(4-ethoxypyridin-2-yl)nitrobenzene (887 mg).

reactant | 2-bromo-4-ethoxypyridine | 879 mg | BrC1=NC=CC(=C1)OCC | C7H8BrNO
reactant | 3-nitrophenylboronic acid | 944 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | sodium carbonate | 5.66 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 251 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(4-ethoxypyridin-2-yl)nitrobenzene | 887 mg | C(C)OC1=CC(=NC=C1)C=1C=C(C=CC1)[N+](=O)[O-] | C13H12N2O3
